US04592866
2-(1-Methyl-3-pyrrolidinyloxy)benzamide
To 85.6 g (2.2 moles) of sodium amide in 1.5 liter of dry toluene was added 202 g (2 moles) of 1-methyl-3-pyrrolidinol so as not to exceed a temperature of 50° C. The mixture was then heated to 70° C. for 4.5 hours. The mixture was cooled and 381 g (2 moles) of o-toluenesulfonylchloride was added at a rapid drop while maintaining a temperature of 20°-30° C. with an ice bath. The mixture was stirred at room temperature for 2.5 hours and washed with water. The toluene solution was dried with sodium sulfate and concentrated. The residue, dissolved in 500 ml of dimethylformamide, was added to a reaction mixture prepared by adding 119 g (2.2 moles) of sodium methoxide and 274 g (2.0 moles) of salicylamide to one liter of dimethylformamide and the mixture was worked up as in preparation 1. Yield of product was 170 g (38%), m.p. 116°-118° C.

reactant | sodium amide | 2.2 moles, 85.6 g | [NH2-].[Na+]
reactant | 1-methyl-3-pyrrolidinol | 2 moles, 202 g | CN1CC(CC1)O | C5H11NO
reactant | o-toluenesulfonylchloride | 2 moles, 381 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium methoxide | 2.2 moles, 119 g | C[O-].[Na+]
reactant | salicylamide | 2.0 moles, 274 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
solvent | toluene | 1.5 liter | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | one liter | CN(C=O)C | C3H7NO
product | 2-(1-Methyl-3-pyrrolidinyloxy)benzamide | CN1CC(CC1)OC1=C(C(=O)N)C=CC=C1 | C12H16N2O2
